US08022222B2
A 3 dram vial was charged with 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid hydrochloride (0.100 g, 0.2511 mmol), triethylamine (0.1016 g, 1.004 mmol) and DMF (3 mL). The reaction mixture was cooled to 0° C. and ethyl carbonochloridate (0.02641 mL, 0.2762 mmol) was added. The reaction mixture was at 0° C. for 3 hours. N,N-dimethylethylenediamine (0.04427 g, 0.5022 mmol) was added and the reaction mixture was stirred at room temperature overnight, and then 2N NaOH was added. The reaction mixture was extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated. The residue was purified using prepacked silica gel column with 50% ethyl acetate in hexanes followed by 15% (ammoniated) methanol in ethyl acetate. 2M HCl in ether was added and the resulting solids were dried over high vacuum to afford 4-chloro-N-(2-(dimethylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide hydrochloride (0.017 g, 13.01% yield) as an off white solid. 1H NMR (DMSO) δ 11.21 (bs, 1H), 9.82 (bs, 1H), 8.95 (t, 1H), 8.24 (d, 1H), 7.90 (dd, 1H), 7.86 (d, 1H), 7.84 (d, 1H), 6.57 (m, 3H), 3.61 (q, 2H), 3.24 (q, 2H), 2.82 (s, 3H), 2.81 (s, 3H), 2.21 (d, 3H); Mass spectrum (esi) m/z=432 (100) (M+H—HCl).

reactant | 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid hydrochloride | 0.2511 mmol, 0.100 g | Cl.ClC1=C(C=C(C(=O)O)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C
reactant | triethylamine | 1.004 mmol, 0.1016 g | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.2762 mmol, 0.02641 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N,N-dimethylethylenediamine | 0.5022 mmol, 0.04427 g | CN(CCN)C | C4H12N2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-chloro-N-(2-(dimethylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide hydrochloride | 0.017 g, 13.01% yield | Cl.ClC1=C(C=C(C(=O)NCCN(C)C)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C20H22ClN5O2S.ClH/c1-13-12-29-20(24-13)25-18-11-15(6-7-22-18)28-17-10-14(4-5-16(17)21)19(27)23-8-9-26(2)3;/h4-7,10-12H,8-9H2,1-3H3,(H,23,27)(H,22,24,25);1H
